### PR TITLE
[Merged by Bors] - feat: filtration of events which only depends on a finite number of coordinates

### PR DESCRIPTION
**Pull request by EtienneC30**
Introduce a filtration on the product space `Π i, X i`: `piFinset s` is the set of events which only depend on coordinates in `s`. Prove that if a function is measurable with respect to `piFinset s` then it only depends on coordinates in `s`.

---

- [ ] depends on: #22470

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Process/Filtration.lean [hunk 1]
```diff
@@ -368,6 +368,34 @@ lemma piLE_eq_comap_frestrictLe (i : ι) : piLE (X := X) i = pi.comap (frestrict
...
+def piFinset : @Filtration (Π i, X i) (Finset ι) _ pi where
+  seq s := pi.comap s.restrict
+  mono' s t hst := by
+    simp only
+    rw [← restrict₂_comp_restrict hst, ← comap_comp]
+    exact comap_mono (measurable_restrict₂ hst).comap_le
+  le' s := s.measurable_restrict.comap_le
+
+lemma piFinset_eq_comap_restrict (s : Finset ι) :
+    piFinset (X := X) s = pi.comap (s.toSet.restrict) := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Process/Filtration.lean:389]:
```suggestion
    piFinset (X := X) s = pi.comap s.toSet.restrict := by
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by EtienneC30** [comment]
Thanks!
bors merge
